US05717100
4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-ACETYLPIPERIDINE
To a stirring solution of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine (0.76 mmol,0.30 g) in THF (5 mL) was added triethylamine (2.7 mmol,0.27 g) and acetyl chloride (0.91 mmol,71.5 mg) and the reaction stirred at room temperature overnight. The reaction was diluted with water (50 mL) and saturated sodium bicarbonate (10 mL) and the aqueous phase extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over anhydrous sodium sulfate, and the solvent evaporated under reduced pressure. The residue was chromatographed over silica, eluting with 2.5% to 5% MeOH:CH2Cl2. The product containing fractions were combined and evaporated to give a yellow oil. This oil was crystallized from diethyl ether to give 75 mg of the title compound as a white powder. mp=235°-6° C.

reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine | 0.76 mmol, 0.30 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCNCC1)C1=CC=NC=C1 | C19H19FN4
reactant | triethylamine | 2.7 mmol, 0.27 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.91 mmol, 71.5 mg | C(C)(=O)Cl | C2H3ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | 4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-ACETYLPIPERIDINE | 75 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCN(CC1)C(C)=O)C1=CC=NC=C1 | C21H21FN4O
